US09422281B2
Triphosgene (0.048 g, 0.16 mmol) was added slowly to a solution of (S)-1-(2-methyl-6-(1-(oxetan-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-yl)ethanone (0.050 g, 0.16 mmol) and N,N-diisopropylethylamine (0.413 g, 3.20 mmol) in 1,2-dichloroethane (20 mL) at room temperature. The resulting solution was stirred for 1 hour at room temperature and then concentrated under vacuum. The crude product was purified via preparative thin layer chromatography (eluting with 1:1 petroleum ether:ethyl acetate) to afford (S)-4-acetyl-3-methyl-7-(1-(oxetan-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carbonyl chloride (0.040 g, 67%) as a yellow solid. 1H-NMR (300 MHz, CDCl3, ppm): δ 7.92-7.80 (m, 3H), 7.41-7.38 (m, 1H), 7.26-7.23 (m, 1H), 5.55-5.45 (m, 1H), 5.13-5.08 (m, 5H), 4.58-4.53 (m, 1H), 3.33-3.20 (m, 1H), 2.23 (s, 3H), 1.10 (d, J=6.3 Hz, 3H). MS (ESI, pos. ion) m/z 375, 377 [M+H]+.

reactant | Triphosgene | 0.16 mmol, 0.048 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | (S)-1-(2-methyl-6-(1-(oxetan-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | 0.16 mmol, 0.050 g | C[C@@H]1N(C2=CC=C(C=C2NC1)C=1C=NN(C1)C1COC1)C(C)=O | C17H20N4O2
reactant | N,N-diisopropylethylamine | 3.20 mmol, 0.413 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | (S)-4-acetyl-3-methyl-7-(1-(oxetan-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carbonyl chloride | 0.040 g, 67% | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NN(C1)C1COC1)C(=O)Cl)C | C18H19ClN4O3
